US06537948B1
1.46 ml of trifluoromethanesulfonic acid was added to a mixture of 3.0 g of 5-amino-2-(methoxycarbonyl)methoxypyridine, 9 ml of 1,2-dimethoxyethane and 3 ml of dichloromethane dropwise at −10° C. The mixture was stirred for 10 minutes at the same temperature, then, to the reaction solution was added a solution of 2.35 ml of t-butyl nitrite in 1 ml of 1,2-dimethoxyethane dropwise at −10° C. or lower. 1,2-dimethoxyethane was added to the mixture, and it was stirred for 20 minutes at the same temperature, then, into the mixture was poured n-pentane. The precipitated solid was washed with n-pentane, then it was dissolved in 18 ml of acetic anhydride, and the mixture was stirred for 2 hour at 80° C. The mixture was poured into ice-water, and extracted with t-butyl methyl ether. The organic layer was concentrated, then diluted with t-butyl methyl ether. The dilute was washed with saturated aqueous sodium bicarbonate solution, then saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue is subjected to silica gel column chromatography to obtain 1.4 g of 5-acetoxy-2-(methoxycarbonyl)methoxypyridine.

reactant | trifluoromethanesulfonic acid | 1.46 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 5-amino-2-(methoxycarbonyl)methoxypyridine | 3.0 g | NC=1C=CC(=NC1)OCC(=O)OC | C8H10N2O3
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
reactant | t-butyl nitrite | 2.35 ml | N(=O)OC(C)(C)C | C4H9NO2
solvent | 1,2-dimethoxyethane | 1 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 9 ml | COCCOC | C4H10O2
solvent | n-pentane | CCCCC | C5H12
product | 5-acetoxy-2-(methoxycarbonyl)methoxypyridine | 1.4 g | C(C)(=O)OC=1C=CC(=NC1)OCC(=O)OC | C10H11NO5
